reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:6][C:5](=[N+:3]([C-:2]([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],29.782743870819104
[C:1]([O:2][C:3]([C:5](=[C:4])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]#[C:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],7.321571621655018
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5][N:6]1[H:8],96.35879627109449
[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[N:6][H:11])([H:14])[H:15],68.75763840181409
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4][C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:12])[H:13])([H:11])[H:14])([H:8])([H:9])[H:10],71.1810275732962
[N:1]([C@:2]1([H:9])[O:3][C@:4]1([C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],65.77123528446779
[C:1]([C:6]#[N:7])([H:8])([H:9])[H:10].[O:2]=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],108.6838978745917
[C:1]([C:2]([C-:3]1[C:4]([H:13])([H:14])[N+:5]1([C:6]([H:15])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9],24.067956207537918
[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:15])[H:17])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:14][H:18],94.0836059428532
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@:3]1([H:13])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([H:14])[H:19],76.384567712892
[N:1](=[C:2]=[C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])[H:8])[H:9]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],65.6796753373223
[C:1]([N:2]([N:5]=[C:4]=[C:3]([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],62.9295114486356
[C:1]([O:4]/[C:3](=[N:2]/[H:11])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],55.734585914411696
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C-:5]=[O+:6][C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],44.1421954045466
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]1([H:15])[C:5]([H:16])([H:18])/[C:6]1=[N:7]\[H:17])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],107.310388865187
[C:1]([N:2]=[C:3]([H:10])[H:11])([H:6])([H:7])[H:8].[C:4]=[N:5][H:9]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],28.17901506685249
[N:1](=[C:2](\[O:6][C:5]([O+:4]=[C-:3][H:9])([H:10])[H:11])[H:8])\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7],24.234127124346287
[C:1]([C@@:2]([N+:4]#[C-:3])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],37.90535224155212
[C:3](=[C:4]=[C:5]([H:8])[H:12])([C:6]#[C:7][H:13])[H:11].[O:1]=[C:2]([H:9])[H:10]>>[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],33.491713054483334
[H:7][H:8].[O:1]=[C:2]=[N:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],59.3736409835679
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](\[C:4]([H:13])([H:14])[H:15])[H:12])[H:11])([H:8])([H:9])[H:10].[C:5]([C:6]([H:16])([H:17])[H:18])(=[C:7]([H:19])[H:20])[H:21],107.353885326428
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]([O:5][H:12])([H:15])[C:6]([H:13])([H:14])[C:7]1)[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],23.74374690263661
